US07390923B2
a) 4-(2-Bromoethoxy)phenol
Potassium carbonate (7.53 g, 0.05448 mol) was added to the acetone solution (50 ml) of hydroquinone (2.00 g, 0.01816 mol) and 1,2-dibromoethane (3.39 g, 0.01805 mol). The mixture was heated at reflux for 6 h under nitrogen. The resulting mixture was filtered, water was added and pH was adjusted to 2-3. The mixture was extracted with ethyl acetate. The extracts were washed with water, dried over anhydrous Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography on silica gel, using heptane/ethyl acetate as a gradient eluent (95:5-70:30) to afford the pure desired compound as white crystals. 1H NMR (400 MHz, DMSO-d6): 3.74 (2H, t, 3J=5.5 Hz), 4.19 (2H, t, 3J=5.5 Hz), 6.67 (2H, d, 3J=8.9 Hz), 6.78 (2H, d, 3J=8.9 Hz), 8.95 (1H, s, —OH).

reactant | Potassium carbonate | 0.05448 mol, 7.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroquinone | 0.01816 mol, 2.00 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,2-dibromoethane | 0.01805 mol, 3.39 g | BrCCBr | C2H4Br2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2-Bromoethoxy)phenol | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
